US06645774B1
1,2,3,4-Tetrahydronaphthalene-2-carboxylic Acid [4-{(Naphthalen-2-sulfonylamino)methyl}-trans-cyclohexylmethyl]amide
A mixture of naphthalene-2-sulfonic acid-(4-aminomethyl-trans-cyclohexylmethyl)amide (0.5 g, 1.4 mmol), EDC (0.54 g, 2.8 mmol), and DMAP (0.34 g, 2.8 mmol) in methylene chloride (30 mL) was stirred at room temperature for 0.5 h. 1,2,3,4-tetrahydronaphthalen-2-carboxylic acid (0.24 g, 1.4 mmol) was added to the reaction mixture and stirred at room temperature till the completion of the reaction (by TLC). The reaction mixture was washed with saturated ammonium chloride (3×30 mL), dried over sodium sulfate and concentrated in vacuo. The residue was flash chromatographed over silica gel to afford white solid (0.66 g, 99%); mp 225-6° C.

reactant | naphthalene-2-sulfonic acid-(4-aminomethyl-trans-cyclohexylmethyl)amide | 1.4 mmol, 0.5 g | NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C18H24N2O2S
reactant | EDC | 2.8 mmol, 0.54 g
reactant | 1,2,3,4-tetrahydronaphthalen-2-carboxylic acid | 1.4 mmol, 0.24 g | C1C(CCC2=CC=CC=C12)C(=O)O | C11H12O2
catalyst | DMAP | 2.8 mmol, 0.34 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-Tetrahydronaphthalene-2-carboxylic Acid [4-{(Naphthalen-2-sulfonylamino)methyl}-trans-cyclohexylmethyl]amide | 0.66 g, 99% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)CNC(=O)C1CC2=CC=CC=C2CC1 | C29H34N2O3S
